* Fresh current-starved VCO bias generator (self-biased current mirror)
* Sized to match the verified cs_inv NMOS width (W=0.42, corrected in Phase 3)
.subckt vco_bias vctrl Vp Vn VDD GND
* Direct tie: control voltage sets Vn (footer bias) for all ring stages
R_tie Vn vctrl 1
* MB_N: pulls bias current from node Vp, controlled by Vn
XMB_N Vp Vn GND GND sky130_fd_pr__nfet_01v8 L=0.18 W=0.42
* MB_P: diode-connected PMOS, sources current into Vp, self-biasing the node
XMB_P Vp Vp VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=1.8
.ends