* Isolated Current-Starved Inverter (cs_inv.spice)
.subckt cs_inv Vp in out Vn VDD GND
XM3 net2 Vp VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=0.72
XM2 out in net2 VDD sky130_fd_pr__pfet_01v8 L=0.18 W=0.72
XM1 out in net1 GND sky130_fd_pr__nfet_01v8 L=0.18 W=0.42
XM4 net1 Vn GND GND sky130_fd_pr__nfet_01v8 L=0.18 W=0.42

*C_load out GND 5f
.ends