* 5-Stage Current-Starved Ring VCO
.subckt vco5 vctrl osc VDD GND
.include bias.spice
.include cs.spice

X_BIAS vctrl Vp Vn VDD GND vco_bias

* Ring: 5 stages, output of each feeds input of next, last feeds back to first
X1 Vp net1 net2 Vn VDD GND cs_inv
X2 Vp net2 net3 Vn VDD GND cs_inv
X3 Vp net3 net4 Vn VDD GND cs_inv
X4 Vp net4 net5 Vn VDD GND cs_inv
X5 Vp net5 net1 Vn VDD GND cs_inv

* Output buffer: NMOS/PMOS inverter pair, taps net1, drives osc
XBUF_N osc net1 GND GND sky130_fd_pr__nfet_01v8 L=0.18 W=0.36
XBUF_P osc net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=0.72
.ends